US06706763B1
To a solution of 2.26 g of 5-amino-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide in 27 ml of acetone and 11 ml of methanol were added 5.6 ml of 47% solution of hydrobromic acid, 540 mg of sodium nitrite and 2 ml of water under cooling with ice, and the mixture was stirred for 10 minutes. To the reaction mixture were added 3.00 g of acrylamide, and, after heated to 30° C., 135 mg of cupric oxide were added little by little, and the mixture was stirred further for 2 hours at 30° C. Solvent was distilled off under reduced pressure, and 25% aqueous ammonia was added to the residue, which was extracted with ethyl acetate. The organic layer was washed with water and saturated brine in sequence and dried over anhydrous sodium sulfate. Solvent was distilled off under reduced pressure, the residue obtained was crystallized from hexane:ethyl acetate=1:1, and then the crystals were collected by filtration to obtain 1.55 g of 5-(2-bromo-2-carbamoylethyl)-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide as colorless crystals.

reactant | 5-amino-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 2.26 g | NC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC | C16H15F3N2O2
reactant | hydrobromic acid | Br | BrH
reactant | sodium nitrite | 540 mg | N(=O)[O-].[Na+]
reactant | acrylamide | 3.00 g | C(C=C)(=O)N | C3H5NO
solvent | acetone | 27 ml | CC(=O)C | C3H6O
solvent | methanol | 11 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 5-(2-bromo-2-carbamoylethyl)-2-methoxy-N-(4-trifluoromethylbenzyl)benzamide | 1.55 g | BrC(CC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)C(F)(F)F)C1)OC)C(N)=O | C19H18BrF3N2O3
